US07989449B2
1-Bromo-4-(1-phenyl-vinyl)-benzene 14333-76-0]
A solution of 4-bromoacetophenone (10.0 g, 50.2 mmol) in 130 mL of dry diethyl ether was added over 1.5 hours to a solution of phenyllithium (30.7 mL of 1.8 M a solution in dibutyl ether, 55.2 mmol) in 70 mL of dry diethyl ether at room temperature under an inert atmosphere. The reaction mixture was stirred while heating to reflux for 3 hours and then was examined by [C-MS which showed complete consumption of starting material. The reaction was quenched with water (500 mL), until gas evolution ceased, and 1 N HCL (31 mL). The organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The crude product was used without any further purification. A solution of the crude (1-(4-bromo-phenyl)-1-phenyl-ethanol) and a catalytic amount of p-toluenesulfonic acid in toluene (100 mL) was heated at 120° C. for 16 h in a flask equipped with a Dean-Stark apparatus. The reaction mixture was examined by LC-MS which showed complete consumption of starting material. Solvent was evaporated under reduced pressure and the crude was purified by flash chromatography eluting with cyclohexane/ethyl acetate (100:0 to 98:2) giving 11 g of the title compound as a colorless oil (Yield: 84%)

reactant | 4-bromoacetophenone | 50.2 mmol, 10.0 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | phenyllithium | 55.2 mmol, 1.8 M, 30.7 mL | C1(=CC=CC=C1)[Li]
solvent | diethyl ether | 130 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
product | 1-Bromo-4-(1-phenyl-vinyl)-benzene | 11 g, Yield: 84% | BrC1=CC=C(C=C1)C(=C)C1=CC=CC=C1 | C14H11Br
